US04145364
Step B: Preparation of 3-methoxy-4-fluoroaniline
A solution of 10.73g. (0.07 mole) of 3-methoxyphenylazide in 100 ml. of hexane was added to 20 ml. of concentrated hydrofluoric acid and the reaction mixture, contained in a bomb, was aged for 10 hours at room temperature with agitation. The reaction mixture was then cooled, vented, and poured from the bomb. The bomb was then rinsed with 50 ml. of water, followed by 20 ml. of dichloromethane. The reaction mixture poured from the bomb was blown down under nitrogen, and then combined with the bomb rinsings, and this mixture was cooled and brought to a pH of about 12 with KOH pellets. The mixture was extracted three times with 50 ml. of dichloromethane per extraction, and the combined extracts were dried over MgSO4 and concentrated to 7.31g. (53%) of a dark oil. An aliquot of this product was distilled under reduced pressure to obtain a pale yellow oil with a b.p. of 150°-152° C. at 50 mm. Hg. Structure of the final product as 3-methoxy-4-fluoroaniline was confirmed by mass spectroscopy.

reactant | 3-methoxyphenylazide | 0.07 mole | COC=1C=C(C=CC1)N=[N+]=[N-] | C7H7N3O
reactant | hydrofluoric acid | F | FH
solvent | hexane | CCCCCC | C6H14
product | 3-methoxy-4-fluoroaniline | COC=1C=C(N)C=CC1F | C7H8FNO
